US07709466B2
3-(1-Methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid
350 mg of 2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-indole-5-carboxylic acid ethyl ester is dissolved in 4 ml ethanol and 4 ml aqueous 2N NaOH and heated by microwave irradiation for 10 min at 150° C. The solution is neutralized with aqueous HCl and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 39 mg. LC-MS (ES+) 413 (M+H)+.

reactant | 2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-indole-5-carboxylic acid ethyl ester | 350 mg | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=C(N=NC(=C1)C1=CC=NC=C1)OC)C=1C=NN(C1)C | C25H22N6O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(1-Methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid | CN1N=CC(=C1)C1=C(NC2=CC=C(C=C12)C(=O)O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C22H16N6O3
